US04233305
Using the process of Example 13, methyl 2-(8-trifluoromethyl-4-quinolinylamino)-5-fluoro-benzoate and dimethylamino-ethanol were reacted to form 2-dimethylaminoethyl 2-(8-trifluoromethyl-4-quinolinylamino)-5-fluorobenzoate which was then dissolved in ethanol. Dry hydrogen chloride in ethanol was added to the solution and anhydrous ether was added to effect precipitation. The mixture was vacuum filtered and the crystals were washed and dried to obtain 2-dimethylamino-ethyl 2-(8-trifluoromethyl-4-quinolinylamino)-5-fluoro-benzoate hydrochloride melting at 220° C.

reactant | methyl 2-(8-trifluoromethyl-4-quinolinylamino)-5-fluoro-benzoate | FC(C=1C=CC=C2C(=CC=NC12)NC1=C(C(=O)OC)C=C(C=C1)F)(F)F | C18H12F4N2O2
reactant | dimethylamino-ethanol | CN(C)C(C)O | C4H11NO
product | 2-dimethylaminoethyl 2-(8-trifluoromethyl-4-quinolinylamino)-5-fluorobenzoate | FC(C=1C=CC=C2C(=CC=NC12)NC1=C(C(=O)OCCN(C)C)C=C(C=C1)F)(F)F | C21H19F4N3O2
